US05721230
An ice-cooled solution of 10 g (51.8 mmol) of 1-phenylindole in 100 ml of anhydrous diethyl ether was treated dropwise during 5 minutes with a solution of 6 ml (68.8 mmol) of oxalyl chloride in 20 ml of anhydrous diethyl ether. The mixture was stirred for 3 hours while cooling with ice and then treated with 25 ml of ethanol in one portion. After stirring for 10 minutes, the solvent was removed under reduced pressure and the residual solid was crystallized from 60 ml of ethanol to give 12.38 g of ethyl 1-phenylindole-3-glyoxylate as a pale yellow solid of melting point 109°-110° C.

reactant | 1-phenylindole | 51.8 mmol, 10 g | C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | C14H11N
reactant | oxalyl chloride | 68.8 mmol, 6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | ethyl 1-phenylindole-3-glyoxylate | 12.38 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C(=O)OCC)=O | C18H15NO3
